US07420083B2
Synthesis of 5 2-[([1,1′-Biphenyl]-4-ylcarbonyl)oxy]-4-[2-({[(E)-1-phenylethylidene]amino}oxy)ethoxy]benzoic Acid
The title compound was prepared as a white solid (0.076 g, 40%) from 2-hydroxy-4-[2-({[1-phenylethylidene]amino}oxy)ethoxy]benzoic acid and biphenyl-4-carbonyl chloride using a procedure similar to example 8. mp=157.5-159.1° C.; mass spectrum (+EI, M+) m/z 495. 1H NMR (400 MHz, DMSO-d6); δ 12.67 (s, 1H), 8.14 (d, 2H), 7.93 (d, 1H), 7.88 (d, 1H), 7.78 (d, 2H), 7.65 (dd, 2H), 7.52 (dd, 2H), 7.45 (dd, 1H), 7.38 (s, 1H), 7.36 (d, 2H), 7.04 (dd, 1H), 7.02 (s, 1H), 4.47(t, 2H), 4.40 (t, 2H), 2.17 (s, 3H). Elemental analysis: Calcd. for C30H25NO6: C, 70.72H, 5.09; N, 2.83, Found: C, 70.92; H, 4.92; N, 2.76.

reactant | 2-hydroxy-4-[2-({[1-phenylethylidene]amino}oxy)ethoxy]benzoic acid | OC1=C(C(=O)O)C=CC(=C1)OCCON=C(C)C1=CC=CC=C1 | C17H17NO5
reactant | biphenyl-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | 2-[([1,1′-Biphenyl]-4-ylcarbonyl)oxy]-4-[2-({[(E)-1-phenylethylidene]amino}oxy)ethoxy]benzoic Acid | C1(=CC=C(C=C1)C(=O)OC1=C(C(=O)O)C=CC(=C1)OCCO/N=C(\C)/C1=CC=CC=C1)C1=CC=CC=C1 | C30H25NO6
